* NGSPICE file created from xor.ext - technology: sky130A

.subckt xor B Bn Y An
X0 a_130_n670# B An An sky130_fd_pr__pfet_01v8 ad=2 pd=9 as=2 ps=9 w=4 l=0.15
X1 Y a_910_n670# An An sky130_fd_pr__nfet_01v8 ad=1 pd=5 as=1 ps=5 w=2 l=0.15
X2 a_130_n670# Bn An An sky130_fd_pr__pfet_01v8 ad=2 pd=9 as=2 ps=9 w=4 l=0.15
X3 Y a_910_n670# An An sky130_fd_pr__pfet_01v8 ad=2 pd=9 as=2 ps=9 w=4 l=0.15
X4 a_130_n670# B An An sky130_fd_pr__nfet_01v8 ad=1 pd=5 as=1 ps=5 w=2 l=0.15
X5 a_910_n670# a_130_n670# An An sky130_fd_pr__nfet_01v8 ad=1 pd=5 as=1 ps=5 w=2 l=0.15
X6 a_130_n670# Bn An An sky130_fd_pr__nfet_01v8 ad=1 pd=5 as=1 ps=5 w=2 l=0.15
X7 a_910_n670# a_130_n670# An An sky130_fd_pr__pfet_01v8 ad=2 pd=9 as=2 ps=9 w=4 l=0.15
.ends

